US09302996B2
By using 2-(4-benzyloxy-3-methylphenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (1.08 g) and 2-bromo-5-[4-(trifluoromethyl)-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-imidazol-2-yl]pyridine (0.7 g), the procedure was carried out in the same manner as in Reference example 1-3) to obtain 2-[[2-[6-(4-benzyloxy-3-methylphenyl)-3-pyridyl]-4-(trifluoromethyl)imidazol-1-yl]methoxy]ethyltrimethylsilane (0.892 g).

reactant | 2-(4-benzyloxy-3-methylphenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 1.08 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)B1OC(C(O1)(C)C)(C)C)C | C20H25BO3
reactant | 2-bromo-5-[4-(trifluoromethyl)-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-imidazol-2-yl]pyridine | 0.7 g | BrC1=NC=C(C=C1)C=1N(C=C(N1)C(F)(F)F)COCC[Si](C)(C)C | C15H19BrF3N3OSi
product | 2-[[2-[6-(4-benzyloxy-3-methylphenyl)-3-pyridyl]-4-(trifluoromethyl)imidazol-1-yl]methoxy]ethyltrimethylsilane | 0.892 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C1=CC=C(C=N1)C=1N(C=C(N1)C(F)(F)F)COCC[Si](C)(C)C)C | C29H32F3N3O2Si
